US08895596B2
Step B Ethyl 4-{[5-(biphenyl-4-yl)-1-(biphenyl-4-ylmethyl)-4,6-difluoro-1H-benzimidazol-2-yl]oxy}cyclohexanecarboxylate.
A 250 mL flask was charged with ethyl 4-{[1-(biphenyl-4-ylmethyl)-4,6-difluoro-5-iodo-1H-benzimidazol-2-yl]oxy}cyclohexane carboxylate (2 g, 3.24 mmol), 4-Biphenylboronic acid (0.700 g, 3.53 mmol), Pd(PPh3)4 (0.185 g, 0.160 mmol), DMF (30 mL), and 1 M aqueous K2CO3 (6.5 ml, 6.50 mmol). The reaction was degassed with N2 and then heated at 120° C. for 1 hour. The volatiles were removed in vacuo and the resulting residue was partitioned between EtOAc and H2O. The aqueous phase was extracted with EtOAc. The combined organic layers were washed with brine, dried (MgSO4), filtered, and concentrated. Chromatography of the resulting residue over silica eluting with 15% [EtOAc:DCM (1:1)]/hexanes afforded the desired trans product as white solid. LC-MS: calculated for C41H36F2N2O3 642.27, observed m/e: 643.14 (M+H)+ (Rt 3.07/4 min).

reactant | ethyl 4-{[1-(biphenyl-4-ylmethyl)-4,6-difluoro-5-iodo-1H-benzimidazol-2-yl]oxy}cyclohexane carboxylate | 3.24 mmol, 2 g | C1(=CC=C(C=C1)CN1C(=NC2=C1C=C(C(=C2F)I)F)OC2CCC(CC2)C(=O)OCC)C2=CC=CC=C2 | C29H27F2IN2O3
reactant | 4-Biphenylboronic acid | 3.53 mmol, 0.700 g | C1(=CC=C(C=C1)B(O)O)C1=CC=CC=C1 | C12H11BO2
reactant | K2CO3 | 6.50 mmol, 1 M, 6.5 ml | C(=O)([O-])[O-].[K+].[K+]
catalyst | Pd(PPh3)4 | 0.160 mmol, 0.185 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | Ethyl 4-{[5-(biphenyl-4-yl)-1-(biphenyl-4-ylmethyl)-4,6-difluoro-1H-benzimidazol-2-yl]oxy}cyclohexanecarboxylate | C1(=CC=C(C=C1)C1=C(C2=C(N(C(=N2)OC2CCC(CC2)C(=O)OCC)CC2=CC=C(C=C2)C2=CC=CC=C2)C=C1F)F)C1=CC=CC=C1 | C41H36F2N2O3
